US08030311B2
Step 56.3: [4-(3-Amino-pyridin-2-ylamino)-2,6-dichloro-phenyl]-acetic acid methyl ester
A suspension of [2,6-dichloro-4-(3-nitro-pyridin-2-ylamino)-phenyl]-acetic acid methyl ester (5 g, 14.0 mmol) and Raney Ni (˜1 g) in MeOH (100 mL) is stirred for 20 h at rt, under a hydrogen atmosphere. The reaction mixture is filtered through a pad of celite and concentrated to afford the title compound as a grey solid: ES-MS: 326.0/328.0 [M+H]+; tR=3.09 min (System 1); TLC: Rf=0.42 (CH2Cl2/MeOH, 95:5).

reactant | [2,6-dichloro-4-(3-nitro-pyridin-2-ylamino)-phenyl]-acetic acid methyl ester | 14.0 mmol, 5 g | COC(CC1=C(C=C(C=C1Cl)NC1=NC=CC=C1[N+](=O)[O-])Cl)=O | C14H11Cl2N3O4
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Ni | ˜1 g | [Ni] | Ni
product | [4-(3-Amino-pyridin-2-ylamino)-2,6-dichloro-phenyl]-acetic acid methyl ester | COC(CC1=C(C=C(C=C1Cl)NC1=NC=CC=C1N)Cl)=O | C14H13Cl2N3O2
